US06855722B2
a) 3-[5-(3-[1,8]Naphthyridin-2-yl-propyl)-indol-1-yl]-3-phenyl-acrylic acid ethyl ester
A mixture of 2-[3-(1-triisopropylsilanyl-1H-indol-5-yl)-propyl]-[1,8]naphthyridine (125 mg, 0.282 mmol), phenyl-propynoic acid ethyl ester (98.0 mg, 0.563 mmol), and tetrabutylammonium fluoride [1.0 M] 0.85 mL, 0.85 mmol) in THF (3 mL) was stirred for 24 h. After removal of the solvent, the crude reaction mixture was purified via column chromatography on silica gel with ethyl acetate/hexane (2:1) to give the title product as an E/Z isomeric mixture in 64% yield. Mass Spectrum (LCMS, ESI) calculated for C30H28N3O2 462.2 (M+H); found 462.3.

reactant | 2-[3-(1-triisopropylsilanyl-1H-indol-5-yl)-propyl]-[1,8]naphthyridine | 0.282 mmol, 125 mg | C(C)(C)[Si](N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1)(C(C)C)C(C)C | C28H37N3Si
reactant | phenyl-propynoic acid ethyl ester | 0.563 mmol, 98.0 mg | C(C)OC(C#CC1=CC=CC=C1)=O | C11H10O2
reactant | tetrabutylammonium fluoride | 0.85 mmol, 1.0 M, 0.85 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-[5-(3-[1,8]Naphthyridin-2-yl-propyl)-indol-1-yl]-3-phenyl-acrylic acid ethyl ester | 64% yield | C(C)OC(C=C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1)=O | C30H27N3O2
